US08071597B2
Intermediate 23: 6-Cyanopyridine-3-sulfonyl chloride (Formula IX)
In parallel, 5-amino-2-cyano pyridine (10 g, 0.084 mol) is dissolved in concentrated HCl (98 ml) and the mixture is cooled to −5° C. To this mixture is added dropwise over a period of 1 h a solution of NaNO2 (8.2 g, 0.118 mol) in water (50 ml), maintaining the reaction temperature between −5° C. and 0° C. This slurry is then added dropwise over a period of 1 h to the above reaction mixture (thionylchloride/water mixture), maintaining the reaction temperature between −5° C. and 0° C. (Note: The diazotized mixture should be also kept at −5° C. through out the addition). As the addition proceeds, a white solid precipitates. When the addition is over, the reaction mixture is stirred for an additional hour. The precipitate is collected by filtration, washed with cold water and dried under vacuum to afford the title compound as light yellow solid (12.5 g, Yield 73.5%). 1H NMR (DMSO-d6:400 MHz) δ 14.49 (1H, s), 8.87 (1H, s), 8.11-8.14 (1H, d), 8.0-8.03 (1H, d); HPLC (max plot) 97% Rt 1.155 min; LCMS: m/z, M+, 202.8.

reactant | 5-amino-2-cyano pyridine | 0.084 mol, 10 g | NC=1C=CC(=NC1)C#N | C6H5N3
reactant | NaNO2 | 0.118 mol, 8.2 g | N(=O)[O-].[Na+]
reactant | thionylchloride water | S(=O)(Cl)Cl.O
solvent | HCl | 98 ml | Cl | ClH
solvent | water | 50 ml | O | H2O
product | 6-Cyanopyridine-3-sulfonyl chloride | 12.5 g, Yield 73.5% | C(#N)C1=CC=C(C=N1)S(=O)(=O)Cl | C6H3ClN2O2S
